US08912186B2
1) N-(4-Chlorophenyl)glycine
To the suspension of ethyl N-(4-chlorophenyl)-glycinate (10.4 g) in ethanol (4 ml) the solution of NaOH (4 g) in water (40 ml) was added. Upon heating a clear solution is formed, which is refuxed for 0.5 h. The solution is decolorized with activated carbon and filtered while hot. The filtrate is cooled in an ice bath and conc. HCl (5 ml) is added dropwise with stirring (pH 1-2). The precipitate formed is collected by suction filtration and washed with water. After drying in vacuo N-(4-chlorophenyl)-glycine (6.51 g) is obtained as colourless crystals.

reactant | ethyl N-(4-chlorophenyl)-glycinate | 10.4 g | ClC1=CC=C(C=C1)NCC(=O)OCC | C10H12ClNO2
reactant | NaOH | 4 g | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | N-(4-Chlorophenyl)glycine | ClC1=CC=C(C=C1)NCC(=O)O | C8H8ClNO2
